US08003651B2
tert-Butyl 4-((5R,7S)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.843 g, 2.521 mmol) was dissolved in methylene chloride (40 mL) and cooled to −20° C. The solution was treated with DAST (0.9992 mL, 7.562 mmol) and stirred at −20° C. for 100 minutes. After 3 hours, the reaction was quenched with ice and then warmed to ambient temperature. The mixture was separated. The aqueous phase (pH of about 1) was extracted with methylene chloride (2×), and the combined organics were washed with 6% NaHCO3 (2×), dried over Na2SO4, and concentrated to a dark oil (0.91 g). This material was chromatographed on SiO2 (Biotage 40S, load with eluant) and eluted with 2:1 hexane/EtOAc. The desired tert-butyl 4-((5R,7R)-7-fluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.6138 g, 72%) was recovered cleanly. tert-Butyl 4-((5R,7R)-7-fluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.6138 g, 1.825 mmol) was dissolved in dioxane (5 mL) and cooled to 0° C. A solution of HCl in dioxane (11.40 mL, 45.61 mmol; 4M) was added dropwise, and then the reaction mixture was allowed to warm to ambient temperature while stirring for 60 hours. The reaction mixture was concentrated in vacuo, re-suspended in MeOH and re-concentrated (3×). The residue was dissolved in MeOH (3.7 mL) and added dropwise to a rapidly stirring flask containing ether (100 mL). The white solid was filtered under a blanket of nitrogen gas, washed with ether and dried under nitrogen gas to give (5R,7R)-7-fluoro-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride as a white solid (539 mg, 96%). LC/MS (APCI)+ m/z 237.2.

reactant | tert-Butyl 4-((5R,7S)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 2.521 mmol, 0.843 g | O[C@H]1C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C | C17H26N4O3
reactant | DAST | 7.562 mmol, 0.9992 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | tert-Butyl 4-((5R,7R)-7-fluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 1.825 mmol, 0.6138 g | F[C@@H]1C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C | C17H25FN4O2
reactant | HCl | Cl | ClH
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 45.61 mmol, 4M, 11.40 mL | O1CCOCC1 | C4H8O2
product | (5R,7R)-7-fluoro-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 539 mg, 96% | Cl.Cl.F[C@@H]1C[C@H](C2=C1N=CN=C2N2CCNCC2)C | InChI=1S/C12H17FN4.2ClH/c1-8-6-9(13)11-10(8)12(16-7-15-11)17-4-2-14-3-5-17;;/h7-9,14H,2-6H2,1H3;2*1H/t8-,9-;;/m1../s1
